US09359339B2
Step A. 3-Bromo-2-fluoro-5-(trifluoromethyl)benzaldehyde
A solution of n-BuLi (2.5 M in hexanes, 1.98 mL, 4.94 mmol) was added to a solution of diisopropylamine (0.700 mL, 4.94 mmol) in THF (10 mL) at −30° C. After 15 minutes, the mixture was cooled to −70° C., then 3-bromo-4-fluorobenzotrifluoride (1.00 g, 4.12 mmol) was added. After 30 minutes, anhydrous DMF (0.637 mL, 8.23 mmol) was added dropwise. After 15 minutes, acetic acid (0.50 mL, 8.2 mmol) was added, then the mixture was diluted with ethyl acetate and water. The resulting layers were separated, and the aqueous phase was extracted with ethyl acetate. The combined organics were washed with saturated NaCl (aq), dried over Na2SO4, filtered, then concentrated. The resulting light yellow oil was used directly for the following step. 1H NMR (500 MHz, CDCl3) δ 10.38 (s, 1H); 8.10-8.15 (m, 2H). LC1: 3.44 min. Compound does not ionize.

reactant | n-BuLi | 4.94 mmol, 2.5 M, 1.98 mL | [Li]CCCC
reactant | diisopropylamine | 4.94 mmol, 0.700 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-bromo-4-fluorobenzotrifluoride | 4.12 mmol, 1.00 g | BrC=1C=C(C=CC1F)C(F)(F)F | C7H3BrF4
reactant | DMF | 8.23 mmol, 0.637 mL | CN(C)C=O | C3H7NO
reactant | acetic acid | 8.2 mmol, 0.50 mL | C(C)(=O)O | C2H4O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 3-Bromo-2-fluoro-5-(trifluoromethyl)benzaldehyde | BrC=1C(=C(C=O)C=C(C1)C(F)(F)F)F | C8H3BrF4O
